US04447624
A mixture of 130 g of ethyl 2-[[(phenoxycarbonyl)-amino]thioxomethyl]-3-(diethylamino)propenoate (0.37 mole), 104 g of m-fluorosulfonylphenacyl bromide (0.37 mole), and 350 ml of isopropanol was heated to reflux and held one hour. During this time, the reactants dissolved and the product precipitated. The mixture was cooled to 20°-25°, filtered, washed with isopropanol and then water to yield 133 g of white solid, ethyl 5-[3-(fluorosulfonyl)benzoyl]-2-[(phenoxycarbonyl)-amino]-3-thiophenecarboxylate, (75% yield), melting point 161°-163°. Ir: 2.88, 5.72, 5.98, 6.18, 7.12, 8.10, 8.40μ; NMR (CDCl3) δ10.75 (s,1,N-H); 8.4 (m,1); 8.2 (m,2); 7.8 (m,1); 7.7 (s,1, thiophene-proton); 4.4 (q,2); 1.4 (t,3).

reactant | ethyl 2-[[(phenoxycarbonyl)-amino]thioxomethyl]-3-(diethylamino)propenoate | 0.37 mole, 130 g | O(C1=CC=CC=C1)C(=O)NC(C(C(=O)OCC)=CN(CC)CC)=S | C17H22N2O4S
reactant | m-fluorosulfonylphenacyl bromide | 0.37 mole, 104 g | FS(=O)(=O)C=1C=C(C(CBr)=O)C=CC1 | C8H6BrFO3S
reactant | isopropanol | 350 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | ethyl 5-[3-(fluorosulfonyl)benzoyl]-2-[(phenoxycarbonyl)-amino]-3-thiophenecarboxylate | 75% yield | FS(=O)(=O)C=1C=C(C(=O)C2=CC(=C(S2)NC(=O)OC2=CC=CC=C2)C(=O)OCC)C=CC1 | C21H16FNO7S2
